US06576656B1
(1) 1-Methyl-4,6-dichloroisatin
A mixture of 60% NaH (20.5 mg), 4,6-dichloroisatin (947 mg), and iodomethane (0.328 mL) in THF (20 mL) were stirred overnight at room temperature, poured into 1 N hydrochloric acid, and extracted with ethyl acetate. The extracts were washed with sat. aqueous NaCl, dried over MgSO4, and concentrated. The residue was washed with hexane to give the title compound (849 mg, 84%).

reactant | NaH | 20.5 mg | [H-].[Na+]
reactant | 4,6-dichloroisatin | 947 mg | ClC1=C2C(C(NC2=CC(=C1)Cl)=O)=O | C8H3Cl2NO2
reactant | iodomethane | 0.328 mL | IC | CH3I
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 1-Methyl-4,6-dichloroisatin | 849 mg, 84% | CN1C(=O)C(=O)C2=C(C=C(C=C12)Cl)Cl | C9H5Cl2NO2
